US04383945
To a solution of methyl 2-[(3R,4R)-4-allyl-3-phthalimido-2-oxoazetidin-1-yl]-3-methyl-2-butenoate (2.64 g) in a mixture of methylene chloride (20 ml) and methanol (10 ml) was added N,N-dimethyl-1,3-propanediamine (1.98 ml) and the mixture was left in a refrigerator for 3 days and at room temperature for 24 hours. The reaction mixture was evaporated and the residue was dissolved in ethyl acetate (50 ml), washed with water, dried over magnesium sulfate and evaporated to give an oil, which was chromatographed on silica gel eluting with a mixture of methylene chloride and acetone (6-5:1) to give methyl 2-[(4R)-3-amino-4-allyl-2-oxoazetidin-1-yl]-3-methyl-2-butenoate (873 mg) as an oil.

reactant | methyl 2-[(3R,4R)-4-allyl-3-phthalimido-2-oxoazetidin-1-yl]-3-methyl-2-butenoate | 2.64 g | C(C=C)[C@@H]1[C@H](C(N1C(C(=O)OC)=C(C)C)=O)N1C(C=2C(C1=O)=CC=CC2)=O | C20H20N2O5
reactant | N,N-dimethyl-1,3-propanediamine | 1.98 ml | CN(CCCN)C | C5H14N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
product | methyl 2-[(4R)-3-amino-4-allyl-2-oxoazetidin-1-yl]-3-methyl-2-butenoate | 873 mg | NC1C(N([C@@H]1CC=C)C(C(=O)OC)=C(C)C)=O | C12H18N2O3
